2120-11-09 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-11-8**] 10:37 PM
 PRESEP CATHETER - START [**2120-11-8**] 10:39 PM
   Admitted to [**Hospital Unit Name 44**] from ED for hypotension/fever. Patient remained stable
   on the ventilator overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-9**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 83 (78 - 83) bpm
   BP: 135/71(92) {93/54(66) - 135/74(94)} mmHg
   RR: 21 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (10.7 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  5,030 mL
                                                                    933 mL
   PO:
   TF:
   IVF:
                                                                     30 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                  1,520 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,830 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 451) mL
   Vt (Spontaneous): 508 (508 - 508) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.50/51/87.[**Numeric Identifier 244**]/33/13
   Ve: 6.7 L/min
   PaO2 / FiO2: 176
   Physical Examination
   GEN: NAD, intubated
   HEENT: EOMI, PERRL 2mm to 1mm, Scleral edema.  MMM, JVD.
   COR: RRR. 2/6 SEM heard over all heart areas, lowest at left sternal
   border.
   PULM: Lungs CTAB anteriorly and laterally
   ABD: Soft, obese, NT, ND, +BS, no HSM, no masses
   EXT: 2+ pitting pedal edema bilaterally symmetric
   NEURO: responds to painful stimuli appropriately, does not respond to
   verbal stimuli. toes are upgoing bilaterally, patellar tendon DTRs
   diminished bilat symmetrical.
   Labs / Radiology
   105 K/uL
   8.9 g/dL
   117 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.3 mEq/L
   14 mg/dL
   108 mEq/L
   147 mEq/L
   30.5 %
   5.2 K/uL
        [image002.jpg]
                            [**2120-11-8**]  08:09 PM
                            [**2120-11-8**]  11:30 PM
                            [**2120-11-8**]  11:56 PM
                            [**2120-11-9**]  04:54 AM
                            [**2120-11-9**]  05:13 AM
   WBC
   6.1
   5.2
   Hct
   29.3
   30.5
   Plt
   112
   105
   Cr
   1.1
   1.0
   TCO2
   41
   38
   41
   Glucose
   92
   117
   Other labs: PT / PTT / INR:18.1/33.8/1.7, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:86.9 %, Lymph:10.3 %, Mono:2.7 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.1 mg/dL
   Imaging: HISTORY: 54-year-old female with right internal jugular line
   placement, to assess the positioning.
     TECHNIQUE: Single portable AP radiograph of the chest was performed.
   Comparison is made with examination of [**2120-11-8**] done at 18:45.
     FINDINGS:
   The endotracheal tube is approximately 16 mm from the carina and needs
   repositioning. The nasogastric tube is projected over the distal
   esophagus and should be further advanced. The right internal jugular
   line is projected over the right atrium. No pneumothorax. The heart
   again is grossly enlarged, and there is prominence of the pulmonary
   vasculature. There also may be a
   left basal effusion.
     CONCLUSION:
   The constellation of findings is consistent with CHF with consolidation
   at the left base. The ET tube needs to be repositioned and the NG tube
   needs to be advanced further. The right- sided central line has its tip
   projected over the right atrium.
     The study and the report were reviewed by the staff radiologist.
     DR. [**First Name (STitle) 5934**] [**Name (STitle) 5935**]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **]
   Approved: FRI [**2120-11-8**] 9:31 PM
   Microbiology: Blood Culture x5 pending
   Urine Culture x1 pending
   Assessment and Plan
   Assesment: 54 yoF w/ a h/o obesity hypoventilation syndrome, OSA,
   multiple admissions for hypercarbic respiratory failure presents with
   hypercarbic respiratory failure.
   .
   Plan:
   # Sepsis: fever and possible pulmonary infiltrate as well as
   hypotension so will treat for sepsis preliminarily as a pneumonic
   source.  Given the patient's multiple hospitalizations and very recent
   hospitalization will need to cover hospital organisms, also likely that
   she has aspirated given history of hypercarbic respiratory failure.
   Also the patient has a + u/a with moderate leuk esterase and > 50wbc so
   urosepsis is also a possibility.  She was hypotensive prior to
   intubation.
   -f/u u/a and urine culture
   -f/u blood cultures
   -send sputum cultures
   -send C diff if diarrhea
   -previous culture data without resistant bacteria, but was on cefpodox
   so will cover with vanc / zosyn and levofloxacin for atypical coverage
   -bolus IVF to CVP of [**9-8**]
   -continuous SVO2 monitoring, hct is 30.5 so if < 70 will add dobutamine
   -MAP=76. Goal is greater than 65.
   -f/u lactate
   -given steroid use will draw cortisol and [**Last Name (un) 45**] stim, if relative
   adrenal insufficiency and still hypotensive will start stress dose
   steroids otherwise can use prednisone 5mg daily.
   -f/u CBC
   .
   # Hypercarbic Respiratory Failure: Initial PCO2 was 105.  Improved with
   mechanical ventilation. Now alkalemic with pH=7.50.
   -multiple hospitalizations related to hypercarbic respiratory failure
   thought to be due to obesity hypoventilation syndrome.
   -baseline PaCO2 is in the 60s
   -follow serial ABGs, this hypercarbic respiratory failure was likely
   secondary to aspiration pneumonia / pneumonitis however it is possible
   she had hypercarbic respiratory failure and obtundation / mental status
   changes which caused her to aspirate.
   .
   # mental status changes: per ED she was unable to respond fully to
   questions but was arousable, she improved with supplemental oxygen but
   her PaCO2 was extremely elevated so she was intubated. On
   fentanyl/versed, patient remains unresponsive to verbal stimuli. She
   does respond to painful stimuli by withdrawing.
   -likely is secondary to PaCO2 and to pneumonia / infectious process,
   will need to reevaluate by decreasing fentanyl/versed as PaCO2 has
   decreased with mechanical ventilation.
   .
   # Panhypopituitarism: partially empty sella on desmopressin,
   levothyroxine, prednisone at home, will continue these medications at
   the current dosage.
   -followed by Dr. [**Last Name (STitle) 2226**] as an outpatient
   .
   # HTN: given hypotension / sepsis will hold home antihypertensives
   .
   # ARF: baseline Cr is 0.9, currently is 1.0, improved from 1.2 last
   night.
   -send u/a, urine culture, and urine electolytes
   -trend Cr.
   -if worsening, can further investigate with renal ultrasound
   -foley
   .
   # FEN:  Start tube feeds when placement in the gastric antrum is
   confirmed
   .
   # Access: IJ, A line
   .
   # PPx:  sc heparin tid, pneumoboots, PPI
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care
   Nutrition:
   Comments: Will advance to TFs when gastric placement is confirmed.
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2120-11-09 09:59:00 Physician Attending Progress Note
24 Hour Events:
   54F with significant medical history, admitted overnight with
   hypercarbic respiratory failure and sepsis; likely related PNA.
   Following volume resucitation she was able to be weaned from pressors
   and has been hemodynamically stable.
   Allergies:
   Ace Inhibitors: angioedema
   Lisinopril (Oral): Shortness of breath
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Vancomycin - [**2120-11-9**] 07:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-9**] 08:56 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-9**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-9**] 07:39 AM
   Insulin sliding scale
   Atrovent
   Other medications:
   Flowsheet Data as of  [**2120-11-9**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.8
   HR: 84 (78 - 86) bpm
   BP: 106/62(75) {93/54(66) - 135/74(94)} mmHg
   RR: 18 (18 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (10.7 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
                                Total In:
                                                                  5,030 mL
                                                                  1,364 mL
   PO:
                                TF:
   IVF:
                                                                     30 mL
                                                                  1,364 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                  2,020 mL
   Urine:
   1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,830 mL
                                                                   -656 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 451) mL
   Vt (Spontaneous): 508 (508 - 508) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 95%
   ABG: 7.42/51/81
   Ve: 5.8 L/min
   PaO2 / FiO2: 164
   Physical Examination
   Gen/Neuro:  Intubated, opens eyes to commands, squeezes hands
   Chest:  Diminished lateral fields and on R; no wheeze
   CV:  RRR
   Abd:  obsese, non-tnder
   Ext:  obesity, [**1-31**]+ edema
   Labs / Radiology
   8.9 g/dL
   105 K/uL
   117 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.3 mEq/L
   14 mg/dL
   108 mEq/L
   147 mEq/L
   30.5 %
   5.2 K/uL
        [image002.jpg]
                            [**2120-11-8**]  08:09 PM
                            [**2120-11-8**]  11:30 PM
                            [**2120-11-8**]  11:56 PM
                            [**2120-11-9**]  04:54 AM
                            [**2120-11-9**]  05:13 AM
                            [**2120-11-9**]  08:56 AM
   WBC
   6.1
   5.2
   Hct
   29.3
   30.5
   Plt
   112
   105
   Cr
   1.1
   1.0
   TCO2
   41
   38
   41
   34
   Glucose
   92
   117
   Other labs: PT / PTT / INR:18.1/33.8/1.7, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:86.9 %, Lymph:10.3 %, Mono:2.7 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   1)  Sepsis:  Possible sources include urinary and pulmonary
 likely
   PNA given infiltrates and respiratory failure.  Currently covered
   empirically with vanco/zosyn/levoflox given history of multiple
   admission and need resistant gram negative and gram positive
   organisms.  Await culture results.  Currently she is hemodynamically
   stable following volume resucitation.  Last measured CVP was 9, MAP
   70s, lactate 1.8, CvO2 >70%
   - Continue empiric antibiotics until cultures return.
   - Currently volume status is appropriate, will give volume for HoTN or
   decreased UOP but no longer needed to maintain CVP as a stand-alone
   goal given > 12h from onset of infection and now hemodynamically
   stable.
   2)  Hypercarbic/Hypoxemic respiratory failure: initial Pco2 105; likely
   related to Obesity hypoventilation syndrome and AMS from UTI/PNA.
   - Current minute ventilation of 5.9L/min is appropriate with goal PCO2
   of 50-60
   - She is hypoxemic with A-a gradient, related to PNA, ? CHF. She was HD
   unstable on admission, and will follow today. Will diurese when proves
   she is HD stable.
   3) Endocrine: h/o panhypopit
 on replacement doses.  Cortisol > 20
   - desmopressin, synthroid, prednisone
   4) CV- Hypertension:  currently holding anti-hypertensives given sepsis
   5) Hypernatremia:  Na to 147
 will give free water boluses via OGT and
   f/u lytes
   ICU Care
   Nutrition:   Start enteral feeds today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition :  Remain in ICU today

2120-11-09 10:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2120-11-8**] 10:37 PM
 PRESEP CATHETER - START [**2120-11-8**] 10:39 PM
   Admitted to [**Hospital Unit Name 44**] from ED for hypotension/fever. Multiple interventions
   occurred in the ED. See admission note by Dr. [**First Name (STitle) **], with addendum by
   Dr. [**Last Name (STitle) 2689**], for more details. In the ICU, patient remained stable on
   the ventilator overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-11-9**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 83 (78 - 83) bpm
   BP: 135/71(92) {93/54(66) - 135/74(94)} mmHg
   RR: 21 (18 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 9 (8 - 16)mmHg
   CO/CI (Fick): (10.7 L/min) / (5.2 L/min/m2)
   Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                  5,030 mL
                                                                    933 mL
   PO:
   TF:
   IVF:
                                                                     30 mL
                                                                    933 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                  1,520 mL
   Urine:
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,830 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 451) mL
   Vt (Spontaneous): 508 (508 - 508) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 97%
   ABG: 7.50/51/87.[**Numeric Identifier 244**]/33/13
 7.42/51/82 on FiO2=50%
   Ve: 6.7 L/min
   PaO2 / FiO2: 176
   Physical Examination
   GEN: NAD, intubated
   HEENT: PERRL 2mm to 1mm, Scleral edema.  MMM, JVD.
   COR: RRR. 2/6 SEM heard over all heart areas, loudest at left sternal
   border.
   PULM: Lungs CTAB anteriorly and laterally
   ABD: Soft, obese, NT, ND, +BS, no HSM, no masses
   EXT: 2+ pitting pedal edema bilaterally symmetric
   NEURO: responds to painful stimuli appropriately, does not respond to
   verbal stimuli. toes are upgoing bilaterally, patellar tendon DTRs
   diminished bilat symmetrical.
   Labs / Radiology
   105 K/uL
   8.9 g/dL
   117 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.3 mEq/L
   14 mg/dL
   108 mEq/L
   147 mEq/L
   30.5 %
   5.2 K/uL
        [image002.jpg]
                            [**2120-11-8**]  08:09 PM
                            [**2120-11-8**]  11:30 PM
                            [**2120-11-8**]  11:56 PM
                            [**2120-11-9**]  04:54 AM
                            [**2120-11-9**]  05:13 AM
   WBC
   6.1
   5.2
   Hct
   29.3
   30.5
   Plt
   112
   105
   Cr
   1.1
   1.0
   TCO2
   41
   38
   41
   Glucose
   92
   117
   Other labs: PT / PTT / INR:18.1/33.8/1.7, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:86.9 %, Lymph:10.3 %, Mono:2.7 %,
   Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:1.1 mg/dL
   Imaging: HISTORY: 54-year-old female with right internal jugular line
   placement, to assess the positioning.
     TECHNIQUE: Single portable AP radiograph of the chest was performed.
   Comparison is made with examination of [**2120-11-8**] done at 18:45.
     FINDINGS:
   The endotracheal tube is approximately 16 mm from the carina and needs
   repositioning. The nasogastric tube is projected over the distal
   esophagus and should be further advanced. The right internal jugular
   line is projected over the right atrium. No pneumothorax. The heart
   again is grossly enlarged, and there is prominence of the pulmonary
   vasculature. There also may be a
   left basal effusion.
     CONCLUSION:
   The constellation of findings is consistent with CHF with consolidation
   at the left base. The ET tube needs to be repositioned and the NG tube
   needs to be advanced further. The right- sided central line has its tip
   projected over the right atrium.
     The study and the report were reviewed by the staff radiologist.
     DR. [**First Name (STitle) 5934**] [**Name (STitle) 5935**]
   DR. [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern4) **]
   Approved: FRI [**2120-11-8**] 9:31 PM
   Microbiology: Blood Culture x5 pending
   Urine Culture x1 pending
   Assessment and Plan
   Assesment: 54 yoF w/ a h/o obesity hypoventilation syndrome, OSA,
   multiple admissions for hypercarbic respiratory failure presents with
   hypercarbic respiratory failure.
   .
   Plan:
   # Sepsis: Patient admitted with fever and possible pulmonary infiltrate
   as well as hypotension, so she was treated for sepsis due to a
   pneumonic source.  Given the patient's multiple hospitalizations and
   very recent hospitalization will need to cover hospital organisms, also
   likely that she has aspirated given history of hypercarbic respiratory
   failure.  Also the patient has a + u/a with moderate leuk esterase and
   > 50wbc so urosepsis is also a possibility.  She was hypotensive prior
   to intubation.
   -f/u u/a and urine culture
   -f/u blood cultures
   -send sputum cultures
   -send C diff if diarrhea
   -previous culture data without resistant bacteria, but was on cefpodox
   so will cover with vanc / zosyn and levofloxacin for atypical coverage
   -MAP=76. Goal is greater than 65.
   -f/u lactate
   -Coritsol = 29, indicating sufficient adrenal response, ruling out
   adrenal insufficiency as a cause of her hypotension
   -f/u CBC daily
   .
   # Hypercarbic Respiratory Failure: Multiple hospitalizations related to
   hypercarbic respiratory failure thought to be due to obesity
   hypoventilation syndrome. At this admission, initial PCO2 was 105 with
   improvement on mechanical ventilation. Current pH=7.42 with PCO2=51 and
   PO2=82. This is appropriate for her as she has chronically elevated
   PCO2. Furthermore, PO2 at this level provides adequate oxygenation. It
   is likely that her pneumonic process is affecting her oxygenation as
   well.
   - Maintain current vent settings. Recheck ABG if settings changed in
   future.
   - baseline PaCO2 is in the 60s. This is her goal.
   .
   # Mental status changes: Per ED she was unable to respond fully to
   questions but was arousable, she improved with supplemental oxygen but
   her PaCO2 was extremely elevated so she was intubated. On
   fentanyl/versed, patient remains unresponsive to verbal stimuli. She
   does respond to painful stimuli by withdrawing. With decrease infusion
   of fentanyl/versed, patient is able to respond to verbal commands.
   Mental status changes likely were initially related to her infectious
   process.
   - Continue to evaluate daily as her infection/sepsis resolves.
   .
   # Panhypopituitarism: Partially empty sella, currently on desmopressin,
   levothyroxine, prednisone at home.
   - Will continue these medications at the current dosage.
   - Followed by Dr. [**Last Name (STitle) 2226**] as an outpatient
   .
   # HTN: given hypotension / sepsis will hold home antihypertensives
   .
   # ARF: baseline Cr is 0.9, currently is 1.0, improved from 1.2 last
   night.
   -send u/a, urine culture, and urine electolytes
   -trend Cr.
   -if worsening, can further investigate with renal ultrasound
   -foley in place
   .
   # FEN:  Start tube feeds. With elevated [**Last Name (LF) **], [**First Name3 (LF) 178**] give 1 liter free
   water in the NG tube. Currently receiving Phos repletion. Will monitor
   with electrolytes at 3pm today. Elevated INR likely due to decreased
   nutritional status as albumin is also decreased. Will recheck this
   afternoon as well after starting tube feeds.
   .
   # Access: IJ, A line
   .
   # PPx:  sc heparin tid, pneumoboots, PPI
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care
   Nutrition:
   Comments: Will advance to TFs when gastric placement is confirmed.
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   10:11

2120-11-10 07:17:00 Physician Resident Progress Note
Chief Complaint: Fever
   24 Hour Events:
   - restarted home lasix 40mg po daily
   - started TF
   - sent sputum cx
 SPUTUM CULTURE - At [**2120-11-9**] 10:33 AM
   History obtained from Patient
   Allergies:
   History obtained from PatientAce Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Vancomycin - [**2120-11-9**] 07:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-10**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-9**] 07:39 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2120-11-10**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 91 (81 - 91) bpm
   BP: 117/67(86) {102/61(75) - 150/87(344)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 17 (14 - 23)mmHg
   Total In:
                                                                  2,625 mL
                                                                    761 mL
   PO:
   TF:
                                                                     64 mL
                                                                    113 mL
   IVF:
                                                                  1,941 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                    610 mL
   Urine:
                                                                  2,805 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV
   Vt (Set): 400 (400 - 401) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 30 cmH2O
   Plateau: 27 cmH2O
   SpO2: 97%
   ABG: 7.44/50/115/34/8
   Ve: 5 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   109 K/uL
   8.5 g/dL
   92 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   18 mg/dL
   109 mEq/L
   149 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                            [**2120-11-8**]  08:09 PM
                            [**2120-11-8**]  11:30 PM
                            [**2120-11-8**]  11:56 PM
                            [**2120-11-9**]  04:54 AM
                            [**2120-11-9**]  05:13 AM
                            [**2120-11-9**]  08:56 AM
                            [**2120-11-9**]  03:06 PM
                            [**2120-11-10**]  03:00 AM
                            [**2120-11-10**]  03:10 AM
   WBC
   6.1
   5.2
   8.0
   Hct
   29.3
   30.5
   27.9
   Plt
   112
   105
   109
   Cr
   1.1
   1.0
   1.1
   1.3
   TCO2
   41
   38
   41
   34
   35
   Glucose
   92
   117
   103
   92
   Other labs: PT / PTT / INR:16.4/32.8/1.5, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:75.3 %, Lymph:15.7 %, Mono:7.4 %,
   Eos:1.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Assesment: 54 yoF w/ a h/o obesity hypoventilation syndrome, OSA,
   multiple admissions for hypercarbic respiratory failure presents with
   hypercarbic respiratory failure.
   .
   Plan:
   # Sepsis: Patient admitted with fever and possible pulmonary infiltrate
   as well as hypotension, so she was treated for sepsis due to a
   pulmonary source (vanc/ zosyn/ levofloxacin for legionella coverge).
   Pt has had recent hospitalization so at risk for HAP.  Additionally, pt
   UA was positive and urine culture growing GNR.  However, pt more likely
   to have pyelonephritis and urosepsis as a cause of her sepsis then a
   pulmonary etiology given improvement in CXR.
   -Will start ceftriaxone and cont zosyn & levofloxacin.  Will d/c vanco
   -f/u urine culture & sensitivities
   -f/u blood cultures
   -f/u sputum cultures, cxr
   -maintain MAP > 65.
   -trend wbc and fever curve
   .
   # Hypercarbic Respiratory Failure: Multiple hospitalizations related to
   hypercarbic respiratory failure thought to be due to obesity
   hypoventilation syndrome. At this admission, initial PCO2 was 105 with
   improvement on mechanical ventilation. Current pH=7.44 with PCO2=50 and
   PO2=115 HCO:35. Pt has chronically elevated PCO2.  Pt clinically
   appears much improved. RSBI: 94.
   - will wean sedation and attempt to wean
   - [**Month (only) **] FiO2, will recheck ABG if settings changed in future.
   .
   # Panhypopituitarism: Partially empty sella, currently on desmopressin,
   levothyroxine, prednisone at home.
   - Will continue these medications at the current dosage.
   .
   # HTN: given hypotension / sepsis will hold home antihypertensives
   .
   # ARF: baseline Cr is 0.9, currently 1.3 today adn trending up
   -trend Cr.
   -check urine lytes, hold on U/S for now
   -foley in place
   .
   #Hypernatermia: Pt with Na 149 today.  Free water deficit is 4.2L.  Pt
   is receiving water flushes from feeding tube.  If extubated will give
   via IV
   .
   #Anemia: Pt Hct 27.9 today. MCV normocytic
   - check Fe studies
   - guiac stools
   - Transfusion if Hct < 25
   .
   #Diastolic CHF: Pt was restarted on her home lasix.  Pt was net
   negative 500cc yesterday.  Goal will be to even to slightly negative.
   .
   # FEN:  Cont tube feeds. Phos repletion goal > 3. replete lytes.
   .
   # Access: IJ, A line
   .
   # PPx:  sc heparin tid, pneumoboots, PPI
   .
   # Code:  FULL CODE
   .
   # Dispo:  ICU
   .
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2120-11-10 10:17:00 Physician Attending Progress Note
24 Hour Events:
   Overall Ms. [**Known lastname 5950**] was stable yesterday with improvement in her
   hemodynamics.  She is currently on SBT, and awake and reponds
   appropriately to commands.  No major change in her clinical status
   since yesterday.
   Allergies:
   Ace Inhibitors: angioedema;
   Lisinopril (Oral): Shortness of breath
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-10**] 08:43 AM
   Vancomycin - [**2120-11-10**] 08:51 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   ICU medications:
   Pantoprazole
   Heparin Sodium
   Desmopressin
   Prednisone
   Flowsheet Data as of  [**2120-11-10**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 92 (81 - 92) bpm
   BP: 121/64(83) {105/61(77) - 150/87(344)} mmHg
   RR: 30 (12 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 16 (14 - 23)mmHg
   Total In:
                                                                  2,625 mL
                                                                  1,416 mL
   PO:
   TF:
                                                                     64 mL
                                                                    113 mL
   IVF:
                                                                  1,941 mL
                                                                    503 mL
   Blood products:
   Total out:
                                                                  3,125 mL
                                                                  1,180 mL
   Urine:
                                                                  2,805 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                    236 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 401 (400 - 401) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.31/69/91
   Ve: 5 L/min
   Physical Examination
   Gen:  Intubated but awake and follows commands
   Chest:  Generally clear anterior fields on limited exam
   CV:  RRR
   Abd: obese, soft/nontender
   Ext:  [**1-31**]+ edema B
   Labs / Radiology
   8.5 g/dL
   109 K/uL
   92 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.0 mEq/L
   18 mg/dL
   109 mEq/L
   149 mEq/L
   27.9 %
   8.0 K/uL
        [image002.jpg]
                            [**2120-11-8**]  08:09 PM
                            [**2120-11-8**]  11:30 PM
                            [**2120-11-8**]  11:56 PM
                            [**2120-11-9**]  04:54 AM
                            [**2120-11-9**]  05:13 AM
                            [**2120-11-9**]  08:56 AM
                            [**2120-11-9**]  03:06 PM
                            [**2120-11-10**]  03:00 AM
                            [**2120-11-10**]  03:10 AM
   WBC
   6.1
   5.2
   8.0
   Hct
   29.3
   30.5
   27.9
   Plt
   112
   105
   109
   Cr
   1.1
   1.0
   1.1
   1.3
   TCO2
   41
   38
   41
   34
   35
   Glucose
   92
   117
   103
   92
   Other labs: PT / PTT / INR:16.4/32.8/1.5, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:75.3 %, Lymph:15.7 %, Mono:7.4 %,
   Eos:1.3 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   54F with recurrent admissions for urosepsis inducing altered mental
   status; here w/ likely urosepsis and hypercarbic/hypoxemic respiratory
   failure.
   1)  Sepsis:  Possible sources include urinary and pulmonary.  Currently
   covered empirically with vanco/zosyn/levoflox given history of multiple
   admissions and need for resistant gram negative and gram positive
   organisms.  Urine culture with GNR, awaiting speciation.  CXR improving
   today and less concerning for PNA.  Suspect urosepsis.
   - D/c vancomycin.  Continue zosyn/levofloxacin for GN coverage until
   species and sensitivities return.
   - Currently volume status is appropriate, will give volume for HoTN or
   decreased UOP but no longer needed to maintain CVP as a stand-alone
   goal given > 12h from onset of infection and now hemodynamically
   stable.
   2)  Hypercarbic/Hypoxemic respiratory failure: initial Pco2 105; likely
   related to Obesity hypoventilation syndrome and AMS from UTI/PNA.
   Currently on SBT, is comfortable and doing well; however, her PCO2 is
   rising to 69 with pH 7.31.  She appears comfortable.  PaO2 91 on FiO2
   0.4
   - Leave on PSV ventilation and follow-up ABG later today.
   - Decrease FiO2 to 0.35 in case she has increased V/Q mismatch and/or
   blunted hypercarbic respiratory drive.
   3) Endocrine: h/o panhypopit
 on replacement doses.  Cortisol > 20
   - desmopressin, synthroid, prednisone
   4) Renal:  Cr rising to 1.3 from 0.9 today.  She has adequate urine
   output.  Suspect ATN from hypotension or sepsis induced kidney injury.
   CVP is 16 currently.
   - Will continue her home dose of lasix, aim for body balance even to
   -500cc today.
   - Check urine lytes, sediment
   ICU Care
   Nutrition:   NPO for possible extubation
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: heparin, boots
   Stress ulcer:   PPI
   VAP: HOB, peridex, mouthcare
   Code status: Full code
   Disposition :  Remains in ICU today, critically ill.

2120-11-11 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2120-11-10**] 12:00 PM
   - FeUrea: 48.8 with moderate urine eos. Did not change antibiotics.
   Repeat creatinine in afternoon was unchanged.
   - ABG with SBT of 7.33/74/104, placed back on AC 400x14, 0.3. Repeat
   ABG 7.39/62/76
   - Repeat sodium improved to 147.
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Levofloxacin - [**2120-11-9**] 12:30 AM
   Vancomycin - [**2120-11-10**] 08:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 12:08 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-10**] 08:43 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-11**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Complaining of dysuria, bladder incontinence when coughing; denies
   chest pain, abdominal pain. Anxious to be extubated
   Flowsheet Data as of  [**2120-11-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.7
C (98.1
   HR: 82 (73 - 97) bpm
   BP: 130/75(97) {112/62(80) - 147/80(105)} mmHg
   RR: 17 (12 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 7 (7 - 17)mmHg
   Total In:
                                                                  2,750 mL
                                                                    779 mL
   PO:
   TF:
                                                                    400 mL
                                                                    224 mL
   IVF:
                                                                    750 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    560 mL
   Urine:
                                                                  3,510 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 324 (324 - 362) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   Switched to PS 5/5 this morning
   FiO2: 30%
   RSBI: 53
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.40/59/87.[**Numeric Identifier 244**]/37/8
   Ve: 5.7 L/min
   PaO2 / FiO2: 293
   Physical Examination
   General: Alert, interactive
   Pulm: Coarse breath sounds diffusely; no wheezes
   CV: RRR, normal S1/S2, II/VI early systolic murmur best heard at RUSB
   Abd: Hypoactive bowel sounds; obese, soft, nontender, not distended
   Ext: Warm, radial and DP pulses 2+
   Labs / Radiology
   104 K/uL
   8.6 g/dL
   99 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.1 mEq/L
   16 mg/dL
   103 mEq/L
   146 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                            [**2120-11-9**]  08:56 AM
                            [**2120-11-9**]  03:06 PM
                            [**2120-11-10**]  03:00 AM
                            [**2120-11-10**]  03:10 AM
                            [**2120-11-10**]  10:20 AM
                            [**2120-11-10**]  02:13 PM
                            [**2120-11-10**]  03:41 PM
                            [**2120-11-10**]  05:32 PM
                            [**2120-11-11**]  02:42 AM
                            [**2120-11-11**]  03:35 AM
   WBC
   8.0
   8.7
   Hct
   27.9
   27.6
   Plt
   109
   104
   Cr
   1.1
   1.3
   1.3
   1.2
   TCO2
   34
   35
   36
   41
   39
   38
   Glucose
   103
   92
   112
   99
   Other labs: PT / PTT / INR:15.5/35.9/1.4, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:75.3 %, Lymph:15.7 %, Mono:7.4 %,
   Eos:1.3 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Sputum culture
 no growth
   Blood cultures ([**11-8**], [**11-9**])
 pending
   Urine culture
 E coli resistant to ampicillin
   Assessment and Plan
   54 yo F w/ obesity hypoventilation syndrome, OSA, multiple admissions
   for hypercarbic respiratory failure presented [**2120-11-8**] with hypercarbic
   respiratory failure.
   #. Sepsis: Secondary to either UTI or pneumonia. Clear pathogen
   identified by urine culture. Sputum culture with no growth, although
   possible infiltrates on chest radiograph. WBC count normal, and low
   grade fever overnight. Currently on Zosyn and levofloxacin for 4 days
   now. Vanco d/c
   - D/c Zosyn
   - Continue levofloxacin
   - IVF bolus to support BP as needed
   - Trend WBC and fever curves
   - Monitor blood cultures; reculture if continues to spike fever
   #. Hypercarbic Respiratory Failure: Multiple hospitalizations related
   to hypercarbic respiratory failure thought to be due to obesity
   hypoventilation syndrome. At this admission, initial PCO2 was 105 with
   improvement on mechanical ventilation. Pt clinically appears much
   improved
 anxious to have ETT removed. Hypercarbia resolved.
   - Wean off of vent today
   #. Panhypopituitarism: Partially empty sella, currently on
   desmopressin, levothyroxine, prednisone at home.
   - Will continue these medications at the current dosage.
   #. HTN:
   - Consider adding back anti-hypertensives if is consistently
   hypertensive after extubation
   #. ARF: Baseline creatinine is 0.9. Currently 1.2 and trending towards
   baseline. FeNa 8.2% - good urine production and creatinine normalizing.
   Possible AIN given presence of eosinophils in urine.
   - Trend Cr.
   #Hypernatremia: Serum Na 146 today. Free water deficit is 2.7L. Given
   hypokalemia as well, likely related to steroid replacement for
   panhypopituitarism.
   - D5
 NS IVF today to correct
   #Anemia: Pt Hct 27.9 today. MCV normocytic
   - check Fe studies
   - guiac stools
   - Transfusion if Hct < 25
   #Diastolic CHF: Pt was restarted on her home lasix.  Pt was net
   negative 500cc yesterday.  Goal will be to even to slightly negative.
   # FEN: D/c TF in preparation for extubation today. Replete lytes prn
   - Add on diet today if tolerates extubation
   # Access: IJ, A line
   # PPx:  sc heparin tid, pneumoboots, PPI
   # Code:  FULL CODE
   # Dispo:  ICU
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-11-11 11:53:00 Physician Attending Progress Note
24 Hour Events:
   Mildly hypercarbic yesterday on SBT, also was febrile at the time.
   Otherwise she was stable and able to be diiuresed overnight.  Doing
   well on SBT this morning, is awake and alert and without compliants.
   Allergies:
   Ace Inhibitors: angioedema;
   Lisinopril (Oral): Shortness of breath
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 08:20 AM
   Levofloxacin - [**2120-11-11**] 09:00 AM
   ICU medications:
   Pantoprazole (Protonix)
   Heparin Sodium SQ
   Synthroid
   Desmopressin
   Prednisone 5mg daily
   Albuterol/atrovent
   Peridex
   Flowsheet Data as of  [**2120-11-11**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 82 (73 - 97) bpm
   BP: 129/68(91) {102/59(76) - 148/82(108)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 8 (7 - 17)mmHg
   Total In:
                                                                  2,750 mL
                                                                  1,104 mL
   PO:
   TF:
                                                                    400 mL
                                                                    224 mL
   IVF:
                                                                    750 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                  1,740 mL
   Urine:
                                                                  3,510 mL
                                                                  1,740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -636 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 401) mL
   Vt (Spontaneous): 381 (324 - 381) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 53
   PIP: 10 cmH2O
   Plateau: 24 cmH2O
   SpO2: 96%
   ABG: 7.42/43/95
   Ve: 5.7 L/min
   PaO2 / FiO2: 317
   Physical Examination
   Gen: awake on ventilator, no acute distress
   Chest: CTA B
   CV:  RRR without murmur
   Abd: soft/non-tender/non-distended
   Ext: warm/well-perfused, 1+ edema B
   Labs / Radiology
   8.6 g/dL
   104 K/uL
   99 mg/dL
   1.2 mg/dL
   37 mEq/L
   3.1 mEq/L
   16 mg/dL
   103 mEq/L
   146 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                            [**2120-11-9**]  03:06 PM
                            [**2120-11-10**]  03:00 AM
                            [**2120-11-10**]  03:10 AM
                            [**2120-11-10**]  10:20 AM
                            [**2120-11-10**]  02:13 PM
                            [**2120-11-10**]  03:41 PM
                            [**2120-11-10**]  05:32 PM
                            [**2120-11-11**]  02:42 AM
                            [**2120-11-11**]  03:35 AM
                            [**2120-11-11**]  10:17 AM
   WBC
   8.0
   8.7
   Hct
   27.9
   27.6
   Plt
   109
   104
   Cr
   1.1
   1.3
   1.3
   1.2
   TCO2
   35
   36
   41
   39
   38
   29
   Glucose
   103
   92
   112
   99
   Other labs: PT / PTT / INR:15.5/35.9/1.4, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:75.3 %, Lymph:15.7 %, Mono:7.4 %,
   Eos:1.3 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   54F with recurrent admissions for urosepsis inducing altered mental
   status; here w/ likely urosepsis and hypercarbic/hypoxemic respiratory
   failure.
   1)  Sepsis:  Urine culture with e.coli resistant only to unasyn; she
   has been hemodynamically stable and now afebrile.  Will tailor
   antibiotics.
   - Continue levofloxacin only for course of UTI.
   - Discontinue zosyn; off vancomycin
   2)  Hypercarbic/Hypoxemic respiratory failure: 7.42/42/96 on PSV 5/5
   with FiO2 0.3.  Hypoxemia improved with diuresis.  Suspect her
   hypercapnea yesterday related to fever.  She is passing SBT without
   development of rising PCO2, has appropriate mental status.
   - Extubated today and doing well
   - Will need BiPAP tonight to avoid recurrent hypercarbic resp distress
   - Aim for body balance negative today
   3) Endocrine: h/o panhypopit
 on replacement doses.  Cortisol > 20
   - desmopressin, synthroid, prednisone
   4) Renal:  Creatinine stable today from yesterday despite diuresis.
   Also is hypernatremic.
   - Follow daily
   - Restart free water boluses today
   ICU Care
   Nutrition: holding tube feeds for extubation
   Glycemic Control:  insulin protocol
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: heparin prophylaxis
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: Full code
   Disposition :  Extubate today, will monitor post-extubation for
   stability

2120-11-12 07:10:00 Physician Resident Progress Note
Chief Complaint: Denies pain. States occasional cough.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-11-11**] 12:13 PM
   already intubated and vented
   - Extubated successfully; ordered for BiPap 10/5
   - Restarted home BP meds (clonidine, Diovan, lopressor)
   - Fluid balance -3.6L at 20:00
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAce Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2120-11-10**] 08:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 08:20 AM
   Levofloxacin - [**2120-11-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-11**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2120-11-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.8
C (98.2
   HR: 77 (68 - 86) bpm
   BP: 127/80(98) {102/59(76) - 171/96(124)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 25 (3 - 25)mmHg
   Total In:
                                                                  1,334 mL
                                                                     15 mL
   PO:
   TF:
                                                                    224 mL
   IVF:
                                                                    860 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                    810 mL
   Urine:
                                                                  5,575 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS Balance:
                                                                 -4,241 mL
                                                                    -22 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.46/39/117/37/4
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic), Systolic Ejection Murmur heard
   loudest at USB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t)
   Bronchial: , Wheezes : Expiratory L>R, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   9.1 g/dL
   85 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   142 mEq/L
   29.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2120-11-10**]  10:20 AM
                            [**2120-11-10**]  02:13 PM
                            [**2120-11-10**]  03:41 PM
                            [**2120-11-10**]  05:32 PM
                            [**2120-11-11**]  02:42 AM
                            [**2120-11-11**]  03:35 AM
                            [**2120-11-11**]  10:17 AM
                            [**2120-11-11**]  03:27 PM
                            [**2120-11-11**]  10:19 PM
                            [**2120-11-12**]  04:05 AM
   WBC
   8.7
   11.6
   Hct
   27.6
   29.4
   Plt
   104
   116
   Cr
   1.3
   1.2
   1.1
   1.0
   TCO2
   36
   41
   39
   38
   29
   29
   Glucose
   112
   99
   84
   85
   Other labs: PT / PTT / INR:15.1/34.3/1.3, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:71.0 %, Lymph:13.9 %, Mono:4.0 %,
   Eos:10.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: REASON FOR EXAMINATION: Followup of a patient with hyperbaric
   respiratory
   failure.
     Portable AP chest radiograph was compared to [**2120-11-10**].
     Severe cardiomegaly is unchanged. Dilated mediastinum is unchanged as
   well.
   Bibasal atelectasis is present. The right internal jugular line tip is
   most
   likely in the proximal right atrium. The NG tube tip can be seen till
   the
   stomach. The ET tube tip is approximately 5 cm above the carina.
     DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5905**] Approved: MON [**2120-11-11**] 4:50 PM
   Microbiology: Blood Culture x5 = Pending
   [**2120-11-9**] 10:31 am SPUTUM      Source: Endotracheal.      **FINAL REPORT
   [**2120-11-11**]**
      GRAM STAIN (Final [**2120-11-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2120-11-11**]):
         RARE GROWTH OROPHARYNGEAL FLORA.
   Assessment and Plan
   54 yo F w/ obesity hypoventilation syndrome, OSA, multiple admissions
   for hypercarbic respiratory failure presented [**2120-11-8**] with hypercarbic
   respiratory failure.
   #. Sepsis: Secondary to either UTI or pneumonia. Clear pathogen
   identified by urine culture. Sputum culture with no growth, although
   possible infiltrates on chest radiograph. WBC count had been normal,
   now elevated to 11.6. As all three cell lines are increased compared to
   yesterday, this may be due to hemo-concentration from diuresis of ~4 L
   yesterday. No fever overnight. Currently on levofloxacin for 5 days
   now. Blood pressure has been stable overnight.
   - Continue levofloxacin
   - IVF bolus to support BP as needed
   - Trend WBC and fever curves
   - Await results of blood cultures.
   #. Hypercarbic Respiratory Failure: Multiple hospitalizations related
   to hypercarbic respiratory failure thought to be due to obesity
   hypoventilation syndrome. At this admission, initial PCO2 was 105 with
   improvement on mechanical ventilation. Pt clinically appears much
   improved. Hypercarbia resolved. Appears comfortable off mechanical
   ventilation.
   #. Panhypopituitarism: Partially empty sella, currently on
   desmopressin, levothyroxine, prednisone at home.
   - Will continue these medications at the current dosage.
   #. HTN: On clonidine, valsartan, and metoprolol as outpatient.
   - Outpatient meds reordered yesterday evening
   - Will reassess BP after she receives AM doses
   #. ARF: Baseline creatinine is 0.9. Currently 1.0. FeNa 8.2% - good
   urine production and Creatinine normalizing. Possible AIN given
   presence of eosinophils in urine. Continue to monitor Cr.
   #Hypernatremia: Serum Na 142 today.  [**Month (only) 60**] have been related to steroid
   replacement for panhypopituitarism as there was associated hypokalemia
   with hypernatremia yesterday.
   - Stable. No intervention needed.
   #Anemia: Pt Hct 29.4 today. MCV normocytic. Appears to be at baseline.
   - Stable. Will continue to monitor with daily labs.
   #Diastolic CHF: Pt was restarted on her home lasix.  Pt was net
   negative 4L yesterday.  Goal will be even fluid balance today.
   # FEN: Replete lytes prn.  Advance diet today as tolerated.
   # Access: IJ, A line
   # PPx:  sc heparin tid, pneumoboots, PPI
   # Code:  FULL CODE
   # Dispo:  Callout to medicine today
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care
   Nutrition:
   Comments: ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2120-11-12 12:00:00 Physician Resident Progress Note
Chief Complaint: Denies pain. States occasional cough.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-11-11**] 12:13 PM
   already intubated and vented
   - Extubated successfully; ordered for BiPap 10/5
   - Restarted home BP meds (clonidine, Diovan, lopressor)
   - Fluid balance -3.6L at 20:00
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsAce Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2120-11-10**] 08:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 08:20 AM
   Levofloxacin - [**2120-11-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-11**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2120-11-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
F) (100.6 later)
   Tcurrent: 36.8
C (98.2
   HR: 77 (68 - 86) bpm
   BP: 127/80(98) {102/59(76) - 171/96(124)} mmHg
   RR: 18 (11 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    CVP: 25 (3 - 25)mmHg
   Total In:
                                                                  1,334 mL
                                                                     15 mL
   PO:
   TF:
                                                                    224 mL
   IVF:
                                                                    860 mL
                                                                     15 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                    810 mL
   Urine:
                                                                  5,575 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
   LOS Balance:
                                                                 -4,241 mL
                                                                    -22 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 381 (381 - 381) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 10 cmH2O
   SpO2: 94%
   ABG: 7.46/39/117/37/4
   Ve: 5.7 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Conjunctiva pale, No(t) Sclera edema
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, No(t) Diastolic), Systolic Ejection Murmur heard
   loudest at USB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t)
   Bronchial: , Wheezes : Expiratory L>R, No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   116 K/uL
   9.1 g/dL
   85 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   142 mEq/L
   29.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2120-11-10**]  10:20 AM
                            [**2120-11-10**]  02:13 PM
                            [**2120-11-10**]  03:41 PM
                            [**2120-11-10**]  05:32 PM
                            [**2120-11-11**]  02:42 AM
                            [**2120-11-11**]  03:35 AM
                            [**2120-11-11**]  10:17 AM
                            [**2120-11-11**]  03:27 PM
                            [**2120-11-11**]  10:19 PM
                            [**2120-11-12**]  04:05 AM
   WBC
   8.7
   11.6
   Hct
   27.6
   29.4
   Plt
   104
   116
   Cr
   1.3
   1.2
   1.1
   1.0
   TCO2
   36
   41
   39
   38
   29
   29
   Glucose
   112
   99
   84
   85
   Other labs: PT / PTT / INR:15.1/34.3/1.3, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:71.0 %, Lymph:13.9 %, Mono:4.0 %,
   Eos:10.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging:
   CXR ([**2120-11-12**])
 Official read pending
   Difficult to interpret.
   REASON FOR EXAMINATION: Followup of a patient with hyperbaric
   respiratory failure.
     Portable AP chest radiograph was compared to [**2120-11-10**].
     Severe cardiomegaly is unchanged. Dilated mediastinum is unchanged as
   well.  Bibasal atelectasis is present. The right internal jugular line
   tip is most likely in the proximal right atrium. The NG tube tip can be
   seen till the stomach. The ET tube tip is approximately 5 cm above the
   carina.
     DR. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 5905**] Approved: MON [**2120-11-11**] 4:50 PM
   Microbiology: Blood Culture x5 = Pending
   [**2120-11-9**] 10:31 am SPUTUM      Source: Endotracheal.      **FINAL REPORT
   [**2120-11-11**]**
      GRAM STAIN (Final [**2120-11-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Final [**2120-11-11**]):
         RARE GROWTH OROPHARYNGEAL FLORA.
   Assessment and Plan
   54 yo F w/ obesity hypoventilation syndrome, OSA, pan-hypopituitarism,
   multiple admissions for hypercarbic respiratory failure presented
   [**2120-11-8**] with hypercarbic respiratory failure.
   #. Sepsis: Secondary to either UTI or pneumonia. Clear pathogen
   identified by urine culture. Sputum culture with no growth, although
   possible infiltrates on chest radiograph. WBC count had been normal,
   now elevated to 11.6. As all three cell lines are increased compared to
   yesterday, this may be due to hemo-concentration from diuresis of ~4 L
   yesterday. No fever overnight, though spiked to 100.6 this morning.
   Currently on levofloxacin for 5 days now, though at renal dosing due to
   her elevated Cr. This may explain the elevated temperature. Blood
   pressure has been stable overnight.
   - Continue levofloxacin
 redose to 250mg PO Q24hrs
   - Trend WBC and fever curves
   - Await results of blood cultures.
   #. HTN: On clonidine, valsartan, and metoprolol as outpatient.
   Medications initially held due to hypotension. First doses given this
   morning with BP dropping to MAP=60..
   - Will reassess BP after she receives AM doses
 hold PM doses if
   remains hypotensive.
   #Diastolic CHF: Pt was restarted on her home lasix.  Pt was net
   negative 4L yesterday.  Goal will be even fluid balance today.
   #. Hypercarbic Respiratory Failure: Multiple hospitalizations related
   to hypercarbic respiratory failure thought to be due to obesity
   hypoventilation syndrome. At this admission, initial PCO2 was 105 with
   improvement on mechanical ventilation. Pt clinically appears much
   improved. Hypercarbia resolved. Appears comfortable off mechanical
   ventilation. During admission has had increased work of breathing that
   seems to be related to increased temperature. Will monitor closely.
   #. Panhypopituitarism: Partially empty sella, currently on
   desmopressin, levothyroxine, prednisone at home.
   - Will continue these medications at the current dosage.
   #. ARF: Baseline creatinine is 0.9. Currently 1.0. FeNa 8.2% - good
   urine production and Creatinine normalizing. Possible AIN given
   presence of eosinophils in urine. Continue to monitor Cr.
   #Hypernatremia: Serum Na 142 today.  [**Month (only) 60**] have been related to steroid
   replacement for panhypopituitarism as there was associated hypokalemia
   with hypernatremia yesterday.
   - Stable. No intervention needed.
   #Anemia: Pt Hct 29.4 today. MCV normocytic. Appears to be at baseline.
   - Stable. Will continue to monitor with daily labs.
   # FEN: Replete lytes prn.  Advance diet today as tolerated.
   # Access: IJ, A line
   # PPx:  sc heparin tid, pneumoboots, PPI
   # Code:  FULL CODE
   # Dispo:  Callout to medicine today
   # Comm:  Daughter [**First Name4 (NamePattern1) 2271**] [**Name (NI) 2272**] [**Telephone/Fax (1) 5925**]
   ICU Care
   Nutrition:
   Comments: ADAT
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   12:04

2120-11-12 16:54:00 Physician Attending Progress Note
Chief Complaint: Obesity hypoventilation, hypercapnic resp failure, UTI
   with sepsis
   HPI:
   extubated [**11-11**]
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2120-11-11**] 12:13 PM
   already intubated and vented
   Allergies:
   Ace Inhibitors
   angioedema;
   Lisinopril (Oral)
   Shortness of br
   Last dose of Antibiotics:
   Vancomycin - [**2120-11-10**] 08:51 AM
   Piperacillin/Tazobactam (Zosyn) - [**2120-11-11**] 08:20 AM
   Levofloxacin - [**2120-11-11**] 09:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-11-12**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2120-11-12**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Eyes: No(t)  Blurry vision
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Musculoskeletal: less mobile
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2120-11-12**] 04:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 69 (65 - 86) bpm
   BP: 110/54(73) {86/42(55) - 171/96(124)} mmHg
   RR: 15 (11 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
   CVP: 13 (11 - 25)mmHg
   Total In:
                                                                  1,334 mL
                                                                    125 mL
   PO:
   TF:
                                                                    224 mL
   IVF:
                                                                    860 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  5,575 mL
                                                                  2,660 mL
   Urine:
                                                                  5,575 mL
                                                                  2,660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,241 mL
                                                                 -2,535 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese, No(t)
   Anxious
   Eyes / Conjunctiva: PERRL
   Lymphatic: obese-- difficult exam
   Cardiovascular: (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   116 K/uL
   85 mg/dL
   1.0 mg/dL
   37 mEq/L
   3.9 mEq/L
   10 mg/dL
   100 mEq/L
   142 mEq/L
   29.4 %
   11.6 K/uL
        [image002.jpg]
                            [**2120-11-10**]  10:20 AM
                            [**2120-11-10**]  02:13 PM
                            [**2120-11-10**]  03:41 PM
                            [**2120-11-10**]  05:32 PM
                            [**2120-11-11**]  02:42 AM
                            [**2120-11-11**]  03:35 AM
                            [**2120-11-11**]  10:17 AM
                            [**2120-11-11**]  03:27 PM
                            [**2120-11-11**]  10:19 PM
                            [**2120-11-12**]  04:05 AM
   WBC
   8.7
   11.6
   Hct
   27.6
   29.4
   Plt
   104
   116
   Cr
   1.3
   1.2
   1.1
   1.0
   TCO2
   36
   41
   39
   38
   29
   29
   Glucose
   112
   99
   84
   85
   Other labs: PT / PTT / INR:15.1/34.3/1.3, ALT / AST:[**12-23**], Alk Phos / T
   Bili:85/0.5, Differential-Neuts:71.0 %, Lymph:13.9 %, Mono:4.0 %,
   Eos:10.9 %, Lactic Acid:1.5 mmol/L, Albumin:2.9 g/dL, LDH:243 IU/L,
   Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   CXR: cardiomegaly, atelectasis
   Assessment and Plan
   54 yo F w/ obesity hypoventilation syndrome, OSA, pan-hypopituitarism,
   multiple admissions for hypercarbic respiratory failure presented
   [**2120-11-8**] with hypercarbic respiratory failure.
          extubated yesterday
          diuresing very effectively: 4L neg/24 h
          4L NC supplemental oxygen
          UTI with sepsis, transient levophed, fluid resuscitation,
   now normotensive
          prednisone, desmopressin for panhypopit
          very frequent hospitalizations for hypercarbic resp distress
   in setting of OSA and likely OHS. Should be considered for chronic
   trach or intermittent NIPPV to prevent severe exacerbations
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2120-11-8**] 10:37 PM
   Presep Catheter - [**2120-11-8**] 10:39 PM
   18 Gauge - [**2120-11-8**] 10:40 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: